US07655666B2
A solution of 2-amino-5-(1-methoxy-ethyl)-4-trifluoromethyl-benzoic acid methyl ester (190 mg, 0.69 mmol) in THF was treated with (CCl3O)2CO (178 mg, 0.6 mmol) and the mixture was stirred at r.t. for 15 min under argon. To this solution was added Et3N (84 μL, 0.6 mmol) and the mixture was stirred for another 3 h at r.t. The mixture was then treated with CH3SO2NHNH2 (66 mg, 0.6 mmol) and stirred for 1 h at r.t. Aqueous sodium hydroxide (1M, 3 mL, 3 mmol) was subsequently added and the solution was stirred for 18 h at r.t. The mixture was acidified with aqueous hydrochloric acid (4N) until pH=3-4, and then diluted with EtOAc. The layers were separated and the organic phase was then washed once with water, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by column chromatography (silica gel 60, hexanes/EtOAc 2:1) to give a pale yellow solid, which was dissolved in EtOAc. Pentane was then added until a white product precipitated. This mixture was allowed to stand at 0° C. for 16 h, and the white solid was then filtered and dried in vacuo at 60° C. to provide N-[6-(1-methoxy-ethyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (180 mg, 0.47 mmol, 68%) as a white powder, m.p. 233-236° C., ESI-MS: m/z 382 [M+H]+.

reactant | 2-amino-5-(1-methoxy-ethyl)-4-trifluoromethyl-benzoic acid methyl ester | 0.69 mmol, 190 mg | COC(C1=C(C=C(C(=C1)C(C)OC)C(F)(F)F)N)=O | C12H14F3NO3
reactant | Et3N | 0.6 mmol, 84 μL | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 0.6 mmol, 66 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | sodium hydroxide | 3 mmol, 1M, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Pentane | CCCCC | C5H12
product | N-[6-(1-methoxy-ethyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 0.47 mmol, 180 mg, 68% | COC(C)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C13H14F3N3O5S
